US04861880
1-(3-Chloro-4-methoxyphenyl)-3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone
By the procedure of Example B1, except that ethyl acetate was used as eluant and ether to crystallize the product, 1-(3-chloro-4-methoxyphenyl)-2(1H,3H)-indolone (1.05 g, 3.84 mole) and N-methyl-2-pyrrolidone (0.62 ml, 6.42 mmoles) were converted to title product, 0.58 g, m.p. 126°-127.5°.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 1-(3-chloro-4-methoxyphenyl)-2(1H,3H)-indolone | 3.84 mole, 1.05 g | ClC=1C=C(C=CC1OC)N1C(CC2=CC=CC=C12)=O | C15H12ClNO2
reactant | N-methyl-2-pyrrolidone | 6.42 mmoles, 0.62 ml | CN1C(CCC1)=O | C5H9NO
solvent | ether | CCOCC | C4H10O
product | 1-(3-Chloro-4-methoxyphenyl)-3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone | ClC=1C=C(C=CC1OC)N1C(C(C2=CC=CC=C12)=C1N(CCC1)C)=O | C20H19ClN2O2
